US08097610B2
A mixture of acetic acid 3-{[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl}-5-methylphenyl ester (1.97 g; 4.88 mmol), 2N-aqueous sodium hydroxide (10 ml) and methanol (20 ml) was stirred at 40° C. for 1 hour. The solvent was evaporated under reduced pressure. To the residue were added water and 2N-aqueous hydrochloric acid to be neutral. Ethyl acetate was added thereto and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure. The residue was purified by column chromatograph on silica gel (ethyl acetate) to give 3-{[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl}-5-methylphenol as colorless amorphous solid (1.83 g; 100%).

reactant | acetic acid 3-{[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl}-5-methylphenyl ester | 4.88 mmol, 1.97 g | ClC1=CC2=C(N=C(S2)N2CCN(CC2)CC=2C=C(C=C(C2)C)OC(C)=O)C=C1 | C21H22ClN3O2S
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-{[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl}-5-methylphenol | ClC1=CC2=C(N=C(S2)N2CCN(CC2)CC=2C=C(C=C(C2)C)O)C=C1 | C19H20ClN3OS
